US07851473B2
(4) N-1,2-Benzisoxazol-3-yl-4-(4-phenyl-1,3-thiazol-2-yl)piperidine-1-carboxamide
A solution of bis(2,2,2-trichloroethyl) 1,2-benzisoxazol-3-ylimidodicarbonate (277 mg, 0.573 mmol), 4-(4-phenyl-1,3-thiazol-2-yl)piperidine (280 mg, 1.15 mmol) and diisopropylethylamine (0.0998 ml, 0.573 mmol) in dimethylsulfoxide (3 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and ethyl acetate to obtain the desired product (110 mg, 47.4%) as a solid.

reactant | bis(2,2,2-trichloroethyl) 1,2-benzisoxazol-3-ylimidodicarbonate | 0.573 mmol, 277 mg | O1N=C(C2=C1C=CC=C2)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C13H8Cl6N2O5
reactant | 4-(4-phenyl-1,3-thiazol-2-yl)piperidine | 1.15 mmol, 280 mg | C1(=CC=CC=C1)C=1N=C(SC1)C1CCNCC1 | C14H16N2S
reactant | diisopropylethylamine | 0.573 mmol, 0.0998 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
product | N-1,2-Benzisoxazol-3-yl-4-(4-phenyl-1,3-thiazol-2-yl)piperidine-1-carboxamide | 110 mg, 47.4% | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCC(CC2)C=2SC=C(N2)C2=CC=CC=C2 | C22H20N4O2S
